US07153861B2
tert-Butyl (2-Amino-2-methylpropyl)-carbamate
Di-tert-butyl dicarbonate (6.58 g, 1 equiv) in tetrahydrofuran (100 ml) was added dropwise to a solution of 1,2-diamino-2-methylpropane (8.86 g, 3.3 equiv) in tetrahydrofuran (100 ml) at 0° C. The solution was then stirred at room temperature for 16 hours. The solvent was evaporated and the residue partitioned between aq. sodium chloride and ethyl acetate. The organic phase was dried (K2CO3) and solvent evaporated to afford the title compound as a colourless solid (5.45 g). 1H-NMR (CDCl3) δ 1.09 (6H, s), 1.45 (9H, s), 3.00 (2H, d). MS (APCI+) found (M+1)=189; C9H20N2O2 requires 188.

reactant | Di-tert-butyl dicarbonate | 6.58 g, 1 equiv | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 1,2-diamino-2-methylpropane | 8.86 g, 3.3 equiv | NCC(C)(C)N | C4H12N2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | tert-Butyl (2-Amino-2-methylpropyl)-carbamate | 5.45 g | NC(CNC(OC(C)(C)C)=O)(C)C | C9H20N2O2
